US06706751B2
In analogy to example 3.9, Diethyl-[4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-butyl]-amine and hexylchloroformate were converted to yield 6-(4-Diethylamino-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid hexyl ester as colorless oil, MS: 405 (MH+).

reactant | Diethyl-[4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-butyl]-amine | C(C)N(CCCCOC=1C=C2CCCNC2=CC1)CC | C17H28N2O
reactant | hexylchloroformate | C(CCCCC)OC(=O)Cl | C7H13ClO2
product | 6-(4-Diethylamino-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid hexyl ester | C(CCCCC)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCN(CC)CC | C24H40N2O3
